US05155100
A suspension of 4-biphenylmethanol (62.9 g, 340 mmol) in hexane (650 mL) is treated with phosphorus tribromide (16 mL, 171 mmol) dropwise over 10 minutes. After 20 minutes CH2Cl2 (200 mL) is added to dissolve the remaining solid. The solution is then stirred for 1.5 hours and treated with water (200 mL) and then ethyl acetate. The organic layer is washed with water, cold saturated sodium bicarbonate and water, dried over sodium sulfate and evaporated to dryness to yield 4-biphenylmethyl bromide, m.p. 79°-80° C.

reactant | 4-biphenylmethanol | 340 mmol, 62.9 g | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
reactant | phosphorus tribromide | 171 mmol, 16 mL | P(Br)(Br)Br | Br3P
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | water | 200 mL | O | H2O
solvent | hexane | 650 mL | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-biphenylmethyl bromide | C1=CC=C(C=C1)C2=CC=C(C=C2)CBr | C13H11Br
